US06825170B2
Step A: 2-[4-(3-furanyl)phenyl]pyrimidine
A suspension of 3-furanboronic acid (672 mg, 6 mmol) in 2M aq. Na3CO3 (10 mL, 20 mmol) and ethanol (8 mL) was added to a solution of 2-(4-bromo-phenyl)pyrimidine (1.30 g, 5.55 mmol, prepared as described in U.S. Pat. No. 5,780,473) and tetrakis(triphenylphosphine)palladium (693 mg, 0.60 mmol) in DME (30 mL). The reaction mixture was refluxed for 18 h, cooled to rt, diluted with ethyl acetate, washed with sat. aq. NaHCO3 and brine, dried with Na2SO4, and concentrated in vacuo. Purification by medium pressure liquid chromatography (SiO2, 3:1 hexanes/ethyl acetate) gave 793 mg (65%) of the title compound. MS 223 (M+H)+.

reactant | 3-furanboronic acid | 6 mmol, 672 mg | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | 2-(4-bromo-phenyl)pyrimidine | BrC1=CC=C(C=C1)C1=NC=CC=N1 | C10H7BrN2
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | DME | 30 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.60 mmol, 693 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[4-(3-furanyl)phenyl]pyrimidine | 793 mg, 65% | O1C=C(C=C1)C1=CC=C(C=C1)C1=NC=CC=N1 | C14H10N2O
